US06762316B1
To a solution of sodium nitrite (30.6 g, 0.43 mol) in DMSO (700 ml) was added 1-bromo-2-propylpentane (49 g, 0.254 mol). The mixture was stirred overnight at room temperature and poured into ice water (700 g). The mixture was extracted with ether (4×250 ml), the organic layers were combined, washed with water (2×500 ml), brine (500 ml), dried and concentrated in vacuo to furnish 37.4 g (93%) of 1-nitro-2-propylpentane which was 85% pure based on 1H NMR data.

reactant | sodium nitrite | 0.43 mol, 30.6 g | N(=O)[O-].[Na+]
reactant | 1-bromo-2-propylpentane | 0.254 mol, 49 g | BrCC(CCC)CCC | C8H17Br
solvent | DMSO | 700 ml | CS(=O)C | C2H6OS
product | 1-nitro-2-propylpentane | 37.4 g, 93% | [N+](=O)([O-])CC(CCC)CCC | C8H17NO2
